US04206225
A mixture of 3-(2,5-dimethoxyphenyl)butyl triphenylphosphonium bromide (19.0 g., 35.4 mmoles) in dimethylsulfoxide (50 ml.) is added to 4-pyridinecarboxaldehyde (3.79 g., 35.4 mmoles) in tetrahydrofuran (40 ml.). The resulting mixture is then added dropwise to a slurry of 50% sodium hydride (1.87 g., 39 mmoles) in tetrahydrofuran (20 ml.) under a nitrogen atmosphere at 0°-5° C. Following completion of addition, the mixture is stirred for one hour at 0°-5° and then concentrated under reduced pressure. The concentrate is diluted with water (200 ml.) and then acidified with 6 N HCl. The aqueous acid solution is extracted with benzene (4×50 ml.). It is then made basic and extracted with ethyl acetate (3×50 ml.). Evaporation of the combined extracts after drying (MgSO4) affords 4-(2,5-dimethoxyphenyl)-1-(4-pyridyl)-1-pentene.

reactant | 3-(2,5-dimethoxyphenyl)butyl triphenylphosphonium bromide | 35.4 mmoles, 19.0 g | [Br-].COC1=C(C=C(C=C1)OC)C(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 4-pyridinecarboxaldehyde | 35.4 mmoles, 3.79 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sodium hydride | 39 mmoles, 1.87 g | [H-].[Na+]
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(2,5-dimethoxyphenyl)-1-(4-pyridyl)-1-pentene | COC1=C(C=C(C=C1)OC)C(CC=CC1=CC=NC=C1)C | C18H21NO2
